US08445489B2
Step 1: 2-Benzo-1,2,5-thiadiazol-5-ylmethyl-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one
3.0 g (13.3 mmol) of 6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one and 4.8 g (14.4 mmol) of caesium carbonate are suspended in 250 ml of DMF, 3.0 g (13.3 mmol) of 5-(bromomethyl)2,1,3-benzothiadiazole are added, and the mixture is stirred at room temperature. After 15 h, 110 ml of water are added to the reaction mixture, which is then stirred at room temperature for 2 h. The resultant precipitate is filtered off with suction and washed with water and dried in vacuo.

reactant | 6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one | 13.3 mmol, 3.0 g | FC=1C=C(C=C(C1F)F)C=1C=CC(NN1)=O | C10H5F3N2O
reactant | caesium carbonate | 14.4 mmol, 4.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(bromomethyl)2,1,3-benzothiadiazole | 13.3 mmol, 3.0 g | BrCC1=CC=2C(=NSN2)C=C1 | C7H5BrN2S
reactant | water | 110 ml | O | H2O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 2-Benzo-1,2,5-thiadiazol-5-ylmethyl-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one | N1=C2C(=NS1)C=C(C=C2)CN2N=C(C=CC2=O)C2=CC(=C(C(=C2)F)F)F | C17H9F3N4OS
